US07235572B2
In analogy to the procedure described in example 27 f], 3-methyl-6-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-1H-indole was reacted with tert-butyl bromoacetate in the presence of sodium hydride to obtain {3-methyl-6-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester as brown oil.

reactant | 3-methyl-6-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-1H-indole | CC1=CNC2=CC(=CC=C12)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C | C21H17F3N2OS
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydride | [H-].[Na+]
product | {3-methyl-6-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC=C(C=C12)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C27H27F3N2O3S
